US07951843B2
g) 4-Methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester
To a solution of compound 1f, 2-(5-Hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid ethyl ester, 2.8 g, 7.36 mmol) and N-phenyl-bis-(trifluoromethanesulfonimide) (3.16 g, 8.83 mmol) in THF (30 mL) under N2 was added Et3N (2.05 mL, 14.7 mmol). The reaction mixture was heated to reflux overnight. After cooling to room temperature, the solution was concentrated and purified by column chromatography to give the title compound (3.7 g, 98%) as a colorless thick oil; 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.94 (dd, J=6.60, 1.47 Hz, 6 H), 1.22-1.28 (m, 3 H), 1.46-1.52 (m, 1 H), 1.69 (ddd, J=13.82, 7.09, 6.97 Hz, 1 H), 1.98-2.06 (m, 1 H), 3.75 (t, J=7.83 Hz, 1 H), 4.10-4.21 (m, 2 H), 7.31 (s, 1 H), 7.38 (s, 1 H), 7.57 (s, 1 H), 7.65-7.75 (m, 4 H); Calcd for C22H22F6O5S (M+H) 513.11, Found 513.

reactant | 2-(5-Hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3O3
reactant | N-phenyl-bis-(trifluoromethanesulfonimide) | 8.83 mmol, 3.16 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Et3N | 14.7 mmol, 2.05 mL | CCN(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-Methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 3.7 g, 98% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C22H22F6O5S
